US04518597
8-(4-Phenylmercapto-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 8-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and thiophenol.

reactant | 8-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC1=CC=CC=2C(OC(NC21)=O)(C)C | C14H18ClNO3
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 8-(4-Phenylmercapto-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | C1(=CC=CC=C1)SCCCCOC1=CC=CC=2C(OC(NC21)=O)(C)C | C20H23NO3S
